* res_tc.spice -- Resistor-flavor temperature-coefficient characterization
* deck (issue #4)
*
* Template deck. Tokens (substituted by run_devchar.sh):
*   /Users/rwalters/.volare   volare PDK root, e.g. ~/.volare
*   res_ss     resistor corner section: res_typical | res_ss | res_ff
*   125       circuit temperature in degC
*   /Users/rwalters/GitHub/gf180-temp-por/.loom/worktrees/issue-4/sim/devchar/results/raw/20260731T145914Z/res/res_res_ss_125.wrdata     unique tag for this run's raw data file
*
* Flavors under test (subckt pins: term1 term2 body, params r_length=,
* r_width=, dtemp=, par=, s=). Each gets its own 1V source and its own top
* node so currents don't sum together; body/well tap tied to ground, which
* is the standard grounded-guard-ring characterization setup:
*   ppolyf_u, ppolyf_u_1k, ppolyf_u_2k, ppolyf_u_3k,
*   nplus_u, pplus_u, npolyf_u, nwell
*
* Geometry: r_length=50u, r_width=2u, par=1, s=1 for every flavor (a fixed
* geometry is enough to extract R(T) and TC -- the corner .lib sections
* already carry the sheet-resistance deltas being characterized here, and
* SUMMARY.md cross-checks the extracted TC against those model rsh/tc1/tc2
* parameters directly).
*
* Voltage-coefficient note: the sm141064 resistor body model exposes
* r_vc1/r_vc2 voltage-coefficient terms, but every flavor characterized
* here ships r_vc1=0, r_vc2=0 (checked against sm141064.ngspice), so R is
* linear in bias voltage by construction -- a single 1V test point is
* sufficient and a supply-voltage sweep would not add information. This
* is recorded as the justification for not repeating this deck across
* the +-10% supply corners (see SUMMARY.md "Supply-dependence" section).

.include '/Users/rwalters/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/Users/rwalters/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' res_ss
.temp 125

Xppu   hi_ppu  0 0 ppolyf_u    r_length=50u r_width=2u dtemp=0 par=1 s=1
Vppu   hi_ppu  0 DC 1

Xppu1k hi_ppu1k 0 0 ppolyf_u_1k r_length=50u r_width=2u dtemp=0 par=1 s=1
Vppu1k hi_ppu1k 0 DC 1

Xppu2k hi_ppu2k 0 0 ppolyf_u_2k r_length=50u r_width=2u dtemp=0 par=1 s=1
Vppu2k hi_ppu2k 0 DC 1

Xppu3k hi_ppu3k 0 0 ppolyf_u_3k r_length=50u r_width=2u dtemp=0 par=1 s=1
Vppu3k hi_ppu3k 0 DC 1

Xnpu   hi_npu  0 0 nplus_u     r_length=50u r_width=2u dtemp=0 par=1 s=1
Vnpu   hi_npu  0 DC 1

Xppl   hi_ppl  0 0 pplus_u     r_length=50u r_width=2u dtemp=0 par=1 s=1
Vppl   hi_ppl  0 DC 1

Xnpf   hi_npf  0 0 npolyf_u    r_length=50u r_width=2u dtemp=0 par=1 s=1
Vnpf   hi_npf  0 DC 1

Xnw    hi_nw   0 0 nwell       r_length=50u r_width=2u dtemp=0 par=1 s=1
Vnw    hi_nw   0 DC 1

.control
op
echo RES_RESULT ppu=$&i(vppu) ppu1k=$&i(vppu1k) ppu2k=$&i(vppu2k) ppu3k=$&i(vppu3k) npu=$&i(vnpu) ppl=$&i(vppl) npf=$&i(vnpf) nw=$&i(vnw)
wrdata /Users/rwalters/GitHub/gf180-temp-por/.loom/worktrees/issue-4/sim/devchar/results/raw/20260731T145914Z/res/res_res_ss_125.wrdata i(vppu) i(vppu1k) i(vppu2k) i(vppu3k) i(vnpu) i(vppl) i(vnpf) i(vnw)
.endc
.end
